2121-02-12 07:07:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2121-2-11**] 06:50 PM
 NON-INVASIVE VENTILATION - STOP [**2121-2-11**] 08:00 PM
   - tolerated fask mask overnight
   - after dose of 80 mg IV lasix, put out about 200 cc in 3 hours
   - was tachycardic in afib to 130s and SBPs to 80s and received 250 cc
   bolus
   - had intermittent awake and aggitated periods; mental status still
   depressed
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-12**] 02:25 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-11**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 122 (109 - 130) bpm
   BP: 85/59(101) {81/55(44) - 122/81(101)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             406 mL
   PO:
             TF:
   IVF:
   406 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    220 mL
   Urine:
                                                                    245 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Spontaneous): 377 (377 - 377) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, bipap
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Diminished: R>L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Oriented (to): x0, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   256 K/uL
   8.2 g/dL
   147 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   46 mg/dL
   104 mEq/L
   141 mEq/L
   25.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2121-2-11**]  09:39 PM
   WBC
   3.8
   Hct
   25.4
   Plt
   256
   Cr
   2.7
   TropT
   0.04
   Glucose
   147
   Other labs: CK / CKMB / Troponin-T:83//0.04, Lactic Acid:2.8 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   84 y/o F with multiple medical problems including DM, CAD, CHF, COPD,
   afib, MM, HTN and CKD who presents today with shorntess of breath
   consistent with a CHF exaccerbation.
   .
   # SOB: unclear etiology, although CXR suggests both fluid overload and
   potential infiltrate.  Is tolerating bipap but with an irregular
   breathing rhythm.
   - continue face mask and wean as tolerated
   - aggressive diuresis overnight as pressure tolerates
   - abx as below for pneumonia
   .
   # CHF: likely has CHF exaccerbation, unclear reason.  Was seen by Dr.
   [**Last Name (STitle) **] in the ED who would not work her up with a catheterization.
   - diuresis overnight with 80 mg IV lasix PRN
   - monitor Cr and K+
   - ROMI for ischemia as cause
   - AM EKG
   - consider echo in morning
   .
   # Pneumonia: has possible RLL infiltrate on CXR, no leukocytosis or hx
   of fevers, although is mildly hypothermic.
   - cultures
   - vanco/zosyn coverage for now for HAP
   - renally dose meds
   .
   # Afib: is in sinus tach right now.  Is systemically anticoagulated.
   - continue coumadin if able to take POs
   - monitor on telemetry
   - hold metoprolol and amiodoarone for now
   .
   # AMS: likely from combination of infection and hypoxia.  Has
   intermittent periods of awakeness, although not quite appropriate.
   continue to treat infection and metabolic derangements
   - consider EEG, neuro consult if not improving
   .
   # Acute on chronic renal failure: Cr is up from a baseline in the
   recent low 2.0s; potentially from decreased renal perfusion vs.
   prerenal etiology.  Is total body fluid overloaded but likely
   intravascularly dry.
   - send urine lytes
   - diuresis for now
   - trend Cr and electrolytes
   - monitor UO overnight
   .
   # HTN: hypotensive on exam today from cardiac shock v. septic shock.
   Is doing well on her own without boluses and are trying to diurese
   secondary to respiratory status.
   - hold antihypertensives for now
   .
   # Multiple Myeloma: unclear stage of MM; will follow up with outpatient
   oncologist.  Not currently under treatment.  [**Month (only) 60**] be contributing to her
   renal failure.  Could be contributing to her depressed mental status if
   potential CSF involvement.
   - follow up with outpatient oncologist
   - defer LP for workup as goals of care are for non invasive procedures
   .
   # Anemia: stable at baseline.
   - guiac all stools
   - transfuse for Hct <21 unless troponin rise consistent with NSTEMI
   .
   # Troponin Leak: is mild, likely at baseline with her acute renal
   failure.  [**Month (only) 60**] be having demand ischemia or possible new ischemia with
   resultant heart failure.
   - trend CEs
   .
   # Seizure Disorder: possibly is post-ictal with her depressed mental
   status.  Does not appear to be in status now as she is minimally
   responsive and occassionally waking up to voice and nodding head
   appropriately.
   - continue dilantin for now if taking PO
   - check dilantin level in AM
   .
   # UTI: has positive UA; follow up culture, should be covered by zosyn
   as is being treated for PNA.
   - zosyn as above
   .
   # PPx: coumadin (systemic coagulation), no GI ppx indicated
   # FEN: no IVFs, NPO, replete electrolytes PRN
   # Access: PIVs x2
   # Communication: with daughter (HCP) who is in [**Hospital3 **] for rehab
   from knee surgery.  Contact through to the HCP is the granddaughter;
   phone number on white board.  Wants to be first contact in case of
   change.
   # Code: DNR/DNI, no central lines or pressors, minimal invasive
   procedures; confirmed in ED with HCP and again with family members who
   are pressent in the room
   # Dispo: in ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-2-11**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2121-02-12 09:21:00 Physician Attending Progress Note
Chief Complaint: CHF, pulmonary edema, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Weaned to high flow face mask and then to nasal cannula overnight
   MS much better this AM - not oriented but conversive and able to answer
   questions
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2121-2-11**] 06:50 PM
 NON-INVASIVE VENTILATION - STOP [**2121-2-11**] 08:00 PM
   Became hypotensive with efforts at diuresis so 250cc saline given back
   overnight - even over ICU course so far
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-12**] 02:25 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-11**] 07:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-2-12**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.5
C (95.9
   HR: 114 (109 - 130) bpm
   BP: 96/63(70) {81/55(44) - 122/81(101)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             575 mL
   PO:
             150 mL
   TF:
   IVF:
   425 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    300 mL
   Urine:
                                                                    245 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -245 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Spontaneous): 377 (377 - 377) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral bases, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): place, time, Movement: Not assessed,
   Tone: Not assessed, conversive
   Labs / Radiology
   8.2 g/dL
   256 K/uL
   147 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   46 mg/dL
   104 mEq/L
   141 mEq/L
   25.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2121-2-11**]  09:39 PM
   WBC
   3.8
   Hct
   25.4
   Plt
   256
   Cr
   2.7
   TropT
   0.04
   Glucose
   147
   Other labs: CK / CKMB / Troponin-T:83//0.04, Lactic Acid:2.8 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   84 yo woman with multiple medical problems [**Name (NI) 11960**], CAD, CHF, COPD,
   multiple myeloma here with respiratory failure due to CHF.
   1. Respiratory Failure/CHF: Doing much better this AM - did not
   actually get significant diuresis.  Could have redistributed volume on
   NIPPV.  Recheck BNP.  Will continue to trat empirically for HAP with
   vanco by level and Zosyn.
   2. Tachycardia: Restart po amio but will not add any other agents for
   the moment given borderline BPs
   3. Altered MS - improved today
   4. Acute on chronic renal failure: Check urine lytes.  Trend Cr.
   Remainder of issues per ICU team.
   ICU Care
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-2-11**] 06:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2121-02-13 07:49:00 Physician Resident Progress Note
24 Hour Events:
   Pt. was stable throughout the day.  Oxygen weaned down to 3L NC.
   Mental status remained confused.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2121-2-12**] 04:08 PM
   Furosemide (Lasix) - [**2121-2-12**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-13**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 123 (112 - 132) bpm
   BP: 115/75(85) {89/59(67) - 121/84(85)} mmHg
   RR: 22 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,695 mL
                                                                    252 mL
   PO:
                                                                    920 mL
                                                                     75 mL
   TF:
   IVF:
                                                                    775 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                  1,115 mL
   Urine:
                                                                  1,510 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    185 mL
                                                                   -863 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: not oriented to place or time, appeared comfortable
   HEENT: MMM
   Cards: irregularly irregular, tachy,
   Resp: clear anteriorly
   Abd: soft, NT/ND
   Ext: purpuric rash on feet:
   Labs / Radiology
   218 K/uL
   8.0 g/dL
   90 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   45 mg/dL
   106 mEq/L
   143 mEq/L
   24.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2121-2-11**]  09:39 PM
                             [**2121-2-12**]  12:30 PM
                             [**2121-2-13**]  06:30 AM
   WBC
   3.8
   4.2
   4.2
   Hct
   25.4
   22.9
   24.2
   Plt
   [**Telephone/Fax (3) 11975**]
   Cr
   2.7
   2.7
   TropT
   0.04
   0.03
   Glucose
   147
   90
   Other labs: PT / PTT / INR:26.1/36.4/2.5, CK / CKMB /
   Troponin-T:68//0.03, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   84 y/o F with multiple medical problems including DM, CAD, CHF, COPD,
   afib, MM, HTN and CKD who presents today with shortness of breath
   consistent with a CHF exacerbation.
   # SOB: Most likely CHF exacerbation. unclear etiology, although CXR
   suggests both fluid overload and potential infiltrate. Tolerated bipap
   but with an irregular breathing rhythm overnight and this morning
   weaned to 3LNC.
   - continue supplemental oxygen as needed
   - abx as below for pneumonia
   - will discuss dig dosing with pharmacy later today
   # CHF: likely has CHF exacerbation, unclear reason.  Was seen by Dr.
   [**Last Name (STitle) **] in the ED who would not work her up with a catheterization.
   Diuresed overnight with 80 mg IV lasix, but BP dropped and fluid given
   back.  Overall still improved.
   - monitor Cr and K+
   - on 80 IV BID, aim to diurese with goal -500 L today
   - ROMI for ischemia as cause
   - consider echo
   # Pneumonia: has possible RLL infiltrate on CXR, no leukocytosis or hx
   of fevers, although is mildly hypothermic.
   - cultures
   - vanco/zosyn coverage for now for HAP
   - renally dose meds
   # Afib: is in sinus tach right now.  Is systemically anticoagulated and
   on amiodarone and metoprolol at home.  HR still in 110s
   - continue coumadin if able to take POs
   - monitor on telemetry
   - restart metoprolol
   - Continue to dig load, decided against amiodarone based on d/w dr. [**Last Name (STitle) **]
   # AMS: Somnolent but alert, interactive. Per discussion with daughter
   likely at baseline. Any change likely from combination of infection and
   hypoxia. Has intermittent periods of awakeness, although not quite
   appropriate.
 continue to treat infection and metabolic derangements
   - consider EEG, neuro consult if worsens
   # Acute on chronic renal failure: Cr is up from a baseline in the
   recent low 2.0s; potentially from decreased renal perfusion vs.
   prerenal etiology.  Is total body fluid overloaded but likely
   intravascularly dry.
   - add on urine lytes
   - diuresis for now
   - trend Cr and electrolytes
   - monitor UO overnight
   # HTN: now normotensive. hypotensive on exam [**2-12**] likely [**12-24**] cardiac
   shock v. septic shock.  Is doing well on her own without boluses and
   are trying to diurese secondary to respiratory status.
   - restart metoprolol as above
   # Multiple Myeloma: unclear stage of MM; will follow up with outpatient
   oncologist.  Not currently under treatment.  [**Month (only) 60**] be contributing to her
   renal failure.  Could be contributing to her depressed mental status if
   potential CSF involvement.
   - follow up with outpatient oncologist
   - defer LP for workup as goals of care are for non invasive procedures
   # Anemia: stable at baseline.
   - guiac all stools
   - transfuse for Hct <21 unless troponin rise consistent with NSTEMI
   # Troponin Leak: is mild, likely at baseline with her acute renal
   failure.  [**Month (only) 60**] be having demand ischemia or possible new ischemia with
   resultant heart failure.
   - trend CEs
   # Seizure Disorder: possibly is post-ictal with her depressed mental
   status.  Does not appear to be in status now as she is minimally
   responsive and occassionally waking up to voice and nodding head
   appropriately.  Now answering questions appropriately, although she is
   disoriented.
   - continue dilantin for now if taking PO
   - check dilantin level in AM
   # UTI: has positive UA; follow up culture, should be covered by zosyn
   as is being treated for PNA.
   - zosyn as above
   # PPx: coumadin (systemic coagulation), no GI ppx indicated
   # FEN: no IVFs, regular diet, replete electrolytes PRN
   # Access: PIVs x2
   # Communication: with daughter (HCP) who is in [**Hospital3 **] for rehab
   from knee surgery.  Contact through to the HCP is the granddaughter;
   phone number on white board.  Wants to be first contact in case of
   change.
   # Code: DNR/DNI, no central lines or pressors, minimal invasive
   procedures; confirmed in ED with HCP and again with family members who
   are pressent in the room
   # Dispo: consider call out to [**Hospital1 2259**] today, will discuss with dr. [**Last Name (STitle) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-13**] 06:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2121-02-13 11:04:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, CHF, tahycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well overnight
   Somnolent on rounds and not easily arousable, but alert earlier this AM
   per nursing
   24 Hour Events:
   HR 100-110 today
   History obtained from Medical records, icu team
   Patient unable to provide history: Unresponsive
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2121-2-12**] 04:08 PM
   Furosemide (Lasix) - [**2121-2-12**] 04:45 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-2-13**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 121 (116 - 132) bpm
   BP: 121/77(115) {89/59(67) - 130/84(115)} mmHg
   RR: 20 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,695 mL
                                                                    384 mL
   PO:
                                                                    920 mL
                                                                     75 mL
   TF:
   IVF:
                                                                    775 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                  1,355 mL
   Urine:
                                                                  1,510 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    185 mL
                                                                   -971 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular tachycardia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   218 K/uL
   92 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   50 mg/dL
   102 mEq/L
   141 mEq/L
   24.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2121-2-11**]  09:39 PM
                             [**2121-2-12**]  12:30 PM
                             [**2121-2-13**]  06:30 AM
   WBC
   3.8
   4.2
   4.2
   Hct
   25.4
   22.9
   24.2
   Plt
   [**Telephone/Fax (3) 11975**]
   Cr
   2.7
   2.7
   2.8
   TropT
   0.04
   0.03
   Glucose
   147
   90
   92
   Other labs: PT / PTT / INR:27.0/34.2/2.6, CK / CKMB /
   Troponin-T:68//0.03, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   84 yo woman with multiple medical problems [**Name (NI) 11960**], CAD, CHF, COPD,
   multiple myeloma here with respiratory failure due to CHF.  Improved
   respiratory failure but remains tachycardic
   1. Respiratory Failure/CHF: Will try to gently diurese.  Continues to
   do well.  D/C abx.
   2. Tachycardia: Dig loaded, will start maintenance dose.  Will start
   low-dose b-blocker
   3. Altered MS - improved earlier today but now somnolent
   4. Acute on chronic renal failure: Cr stable
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-13**] 10:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2121-02-14 06:19:00 Physician Resident Progress Note
24 Hour Events:
   No events overnight. Pt HR stable in 80s-100s overnight, normotensive.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-14**] 02:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-14**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-14**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 81 (81 - 131) bpm
   BP: 115/80(87) {90/55(63) - 130/85(115)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,050 mL
                                                                    100 mL
   PO:
                                                                  1,575 mL
             TF:
   IVF:
                                                                    475 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                    990 mL
   Urine:
                                                                  3,575 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,525 mL
                                                                   -890 mL
   Respiratory support
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: not oriented to place or time, appeared comfortable
   HEENT: MMM
   Cards: irregularly irregular, tachy,
   Resp: clear anteriorly
   Abd: soft, NT/ND
   Ext: purpuric rash on feet:
   Labs / Radiology
   231 K/uL
   8.4 g/dL
   92 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   50 mg/dL
   102 mEq/L
   141 mEq/L
   25.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2121-2-11**]  09:39 PM
                             [**2121-2-12**]  12:30 PM
                             [**2121-2-13**]  06:30 AM
                             [**2121-2-13**]  06:05 PM
                             [**2121-2-14**]  05:13 AM
   WBC
   3.8
   4.2
   4.2
   5.8
   Hct
   25.4
   22.9
   24.2
   25.6
   Plt
   [**Telephone/Fax (3) 11978**]31
   Cr
   2.7
   2.7
   2.8
   2.6
   TropT
   0.04
   0.03
   Glucose
   147
   90
   92
   Other labs: PT / PTT / INR:27.0/34.2/2.6, CK / CKMB /
   Troponin-T:68//0.03, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   84 y/o F with multiple medical problems including DM, CAD, CHF, COPD,
   afib, MM, HTN and CKD who presents today with shortness of breath
   consistent with a CHF exacerbation.
   # SOB: Most likely CHF exacerbation. unclear etiology, although CXR
   suggests both fluid overload and potential infiltrate. Tolerated bipap
   but with an irregular breathing rhythm overnight and this morning
   weaned to 3LNC.
   - continue supplemental oxygen as needed
   - abx as below for pneumonia
   - Continued digoxin 0.25 mg IV X 3 doses yesterday
   # CHF: likely has CHF exacerbation, unclear reason.  Was seen by Dr.
   [**Last Name (STitle) **] in the ED who would not work her up with a catheterization.
   Diuresed overnight with 80 mg IV lasix, but BP dropped and fluid given
   back.  Overall still improved.
   - monitor Cr and K+
   - on 80 IV BID, aim to diurese with goal -500 L today
   - Pt was ruled out for MI
   - Restarted on Metoprolol 25 mg [**Hospital1 **]
   .
   # Pneumonia: has possible RLL infiltrate on CXR, no leukocytosis or hx
   of fevers, although is mildly hypothermic.
   - cultures
   - Zosyn coverage for now for HAP
   - renally dose meds
   .
   # Afib: is in sinus tach right now.  Is systemically anticoagulated and
   on amiodarone and metoprolol at home.  HR still in 110s
   - continue coumadin if able to take POs
   - monitor on telemetry
   - restarted metoprolol
   - Continue to dig load, decided against amiodarone based on d/w dr. [**Last Name (STitle) **]
   # AMS: Somnolent but alert, interactive. Per discussion with daughter
   likely at baseline. Any change likely from combination of infection and
   hypoxia. Has intermittent periods of awakeness, although not quite
   appropriate.
 continue to treat infection and metabolic derangements
   - consider EEG, neuro consult if worsens
   # Acute on chronic renal failure: Cr is up from a baseline in the
   recent low 2.0s; potentially from decreased renal perfusion vs.
   prerenal etiology.  Is total body fluid overloaded but likely
   intravascularly dry.
   - add on urine lytes
   - diuresis for now
   - trend Cr and electrolytes
   - monitor UO overnight
   # HTN: now normotensive. hypotensive on exam [**2-12**] likely [**12-24**] cardiac
   shock v. septic shock.  Is doing well on her own without boluses and
   are trying to diurese secondary to respiratory status.
   - restart metoprolol as above
   # Multiple Myeloma: unclear stage of MM; will follow up with outpatient
   oncologist.  Not currently under treatment.  [**Month (only) 60**] be contributing to her
   renal failure.  Could be contributing to her depressed mental status if
   potential CSF involvement.
   - follow up with outpatient oncologist
   - defer LP for workup as goals of care are for non invasive procedures
   # Anemia: stable at baseline.
   - guiac all stools
   - transfuse for Hct <21 unless troponin rise consistent with NSTEMI
   # Troponin Leak: is mild, likely at baseline with her acute renal
   failure.  [**Month (only) 60**] be having demand ischemia or possible new ischemia with
   resultant heart failure.
   - trend CEs
   # Seizure Disorder: possibly is post-ictal with her depressed mental
   status.  Does not appear to be in status now as she is minimally
   responsive and occassionally waking up to voice and nodding head
   appropriately.  Now answering questions appropriately, although she is
   disoriented.
   - continue dilantin for now if taking PO
   - check dilantin level in AM
   # UTI: has positive UA; follow up culture, should be covered by zosyn
   as is being treated for PNA.
   - zosyn as above
   # PPx: coumadin (systemic coagulation), no GI ppx indicated
   # FEN: no IVFs, regular diet, replete electrolytes PRN
   # Access: PIVs x2
   # Communication: with daughter (HCP) who is in [**Hospital3 **] for rehab
   from knee surgery.  Contact through to the HCP is the granddaughter;
   phone number on white board.  Wants to be first contact in case of
   change.
   # Code: DNR/DNI, no central lines or pressors, minimal invasive
   procedures; confirmed in ED with HCP and again with family members who
   are pressent in the room
   # Dispo: call out to [**Hospital1 2259**] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-13**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2121-02-14 10:23:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt awake this AM and without complaints
   24 Hour Events:
   HR down in the 70s this AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-14**] 02:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-14**] 04:05 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-2-14**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 72 (72 - 115) bpm
   BP: 115/64(74) {90/55(63) - 123/85(90)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,050 mL
                                                                    100 mL
   PO:
                                                                  1,575 mL
             TF:
   IVF:
                                                                    475 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                  1,690 mL
   Urine:
                                                                  3,575 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,525 mL
                                                                 -1,590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   231 K/uL
   87 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   50 mg/dL
   102 mEq/L
   136 mEq/L
   25.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2121-2-11**]  09:39 PM
                             [**2121-2-12**]  12:30 PM
                             [**2121-2-13**]  06:30 AM
                             [**2121-2-13**]  06:05 PM
                             [**2121-2-14**]  05:13 AM
   WBC
   3.8
   4.2
   4.2
   5.8
   Hct
   25.4
   22.9
   24.2
   25.6
   Plt
   [**Telephone/Fax (3) 11978**]31
   Cr
   2.7
   2.7
   2.8
   2.6
   2.4
   TropT
   0.04
   0.03
   Glucose
   147
   90
   92
   87
   Other labs: PT / PTT / INR:28.1/38.0/2.8, CK / CKMB /
   Troponin-T:68//0.03, Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 INEFFECTIVE COPING
   84 yo woman with multiple medical problems [**Name (NI) 11960**], CAD, CHF, COPD,
   multiple myeloma here with respiratory failure due to CHF.  Respiratory
   status and
   1. Respiratory Failure/CHF: 1.5L neg yesterday --> will decrease Lasix
   to 40mg po bid.  Continues to do well.
   2. Tachycardia: Cont digoxin - check level.  Cont metoprolol.  Rate
   well controlled
   3. Altered MS - waxing and [**Doctor Last Name 42**] but good this AM
   4. Acute on chronic renal failure: Cr trending down
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-2-13**] 10:47 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: